US07470705B2
Step 3. Preparation of (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1 ,5]naphthyridine-1-carboxylic acid isopropyl ester
Add triphenylphosphine (27 mg, 0.104 mmol), methanol (17 mg, 0.52 mmol), and diisopropylazodicarboxylate (0.018 mL, 0.104 mmol) to a solution of (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester in dry dichloromethane (1 mL) and stir the mixture for 15 h at room temperature. Remove the solvent in vacuo and purify the residue by silica gel chromatography, eluting with ethyl acetate/hexanes to afford the title compound (41 mg, 66%). MS (ES+): 602 (M+H).

reactant | triphenylphosphine | 0.104 mmol, 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 0.52 mmol, 17 mg | CO | CH4O
reactant | diisopropylazodicarboxylate | 0.104 mmol, 0.018 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(C=1N=NNN1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H27F6N7O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1 ,5]naphthyridine-1-carboxylic acid isopropyl ester | 41 mg, 66% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C26H29F6N7O3
